US05861417
1.4.1 Synthesis of 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dimethoxyphenyl)-3 -(2-hydroxyethyl)pyrrolidine
Combine 3-(3,4-dimethoxyphenyl)-3-(2-hydroxyethyl)pyrrolidine (2.27 g, 9.03 mmol) and N-methylmorpholine (2.48 mL, 22.6 mmol) in anhydrous dichloromethane (100 mL). Cool the reaction mixture to -5° C. with an salt-ice bath. Slowly, add 2-methoxy-5-(1H-tetrazol-1-yl)benzoyl chloride (9.5 mmol) as a solution in dichloromethane (30 mL). Warm to ambient temperature. After 18 hours, extract the reaction mixture with a saturated solution of potassium carbonate. Dry the organic layer over Na2SO4, filter, and concentrate invacuo to obtain the title compound.

reactant | 3-(3,4-dimethoxyphenyl)-3-(2-hydroxyethyl)pyrrolidine | 9.03 mmol, 2.27 g | COC=1C=C(C=CC1OC)C1(CNCC1)CCO | C14H21NO3
reactant | N-methylmorpholine | 22.6 mmol, 2.48 mL | CN1CCOCC1 | C5H11NO
reactant | 2-methoxy-5-(1H-tetrazol-1-yl)benzoyl chloride | 9.5 mmol | COC1=C(C(=O)Cl)C=C(C=C1)N1N=NN=C1 | C9H7ClN4O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dimethoxyphenyl)-3 -(2-hydroxyethyl)pyrrolidine | COC1=C(C(=O)N2CC(CC2)(CCO)C2=CC(=C(C=C2)OC)OC)C=C(C=C1)N1N=NN=C1 | C23H27N5O5
